US08212041B2
4-((6-(3-fluorophenyl)-[1,2,4]-triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline
3-fluorophenylboronic acid (0.092 g, 0.66 mmol) was added to a suspension of 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline (0.150 g, 0.44 mmol) in 2.5 mL dimethylformamide, followed by the addition of potassium carbonate (0.18 g, 1.3 mmol) in 0.6 mL water. PdCl2(dppf)-CH2Cl2 adduct (0.018 g, 0.022 mmol) was added and the flask was purged with argon, sealed and heated at 80° C. for four hours. Purification by MPLC (eluted with 5 then 10% MeOH in CH2Cl2) afforded the product as an off-white solid (78 mg, 44%). (ESI, pos. ion) m/z: 402.1 (M+H).

reactant | 3-fluorophenylboronic acid | 0.66 mmol, 0.092 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 0.44 mmol, 0.150 g | ClC=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C16H12ClN5O2
reactant | potassium carbonate | 1.3 mmol, 0.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | water | 0.6 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.022 mmol, 0.018 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-((6-(3-fluorophenyl)-[1,2,4]-triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 78 mg, 44% | FC=1C=C(C=CC1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C22H16FN5O2
